US08008342B2
(i) 2-(4-Morpholinyl)cyclohexanone
To a chilled (−70° C.) solution of oxalyl chloride (20 mL, 0.23 mol) in dichloromethane (500 mL) was added dropwise a solution of anhydrous dimethylsulfoxide (34 mL, 0.48 mol) in dichloromethane (50 mL) and the resulting mixture was stirred for 5 min. at a temperature below −60° C. Then a solution of (1R,2R)/(1S,2S)-2-(4-morpholinyl)cyclohexanol (37.05 g, 0.2 mol) in dichloromethane (50 mL) was added dropwise in order to maintain the reaction temperature below −60° C. and the reaction mixture was stirred for 15 min. Triethylamine (140 mL) was added dropwise to the reaction mixture, keeping the reaction temperature below −50° C., and then the reaction mixture was allowed to warm up to room temperature. The reaction mixture was poured into water (600 mL) and the aqueous layer was separated and extracted with dichloromethane (2×500 mL). The combined organic layers were dried over sodium sulfate and the solvent was removed in vacuo. Vacuum distillation yielded 35.1 g (96% yield) of the title compound.

reactant | oxalyl chloride | 0.23 mol, 20 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.48 mol, 34 mL | CS(=O)C | C2H6OS
reactant | (1S,2S)-2-(4-morpholinyl)cyclohexanol | 0.2 mol, 37.05 g | N1(CCOCC1)[C@@H]1[C@H](CCCC1)O | C10H19NO2
reactant | Triethylamine | 140 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 600 mL | O | H2O
product | 2-(4-Morpholinyl)cyclohexanone | 35.1 g, 96% yield | N1(CCOCC1)C1C(CCCC1)=O | C10H17NO2
